US06723722B1
1-[1-(4-Pridyl)-4-piperidinylamino]-(3S)-3-(4-vinylbenzenesulfonylamino)-2-pyrrolidone
Similarly to Example 86 and using (3S)-3-(tert-butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone (220 mg) and 4-vinylbenzenesulfonyl chloride (105 mg), the title compound (179 mg) was obtained as a colorless amorphous material.

reactant | (3S)-3-(tert-butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone | 220 mg | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C19H29N5O3
reactant | 4-vinylbenzenesulfonyl chloride | 105 mg | C(=C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO2S
product | 1-[1-(4-Pridyl)-4-piperidinylamino]-(3S)-3-(4-vinylbenzenesulfonylamino)-2-pyrrolidone | 179 mg | N1=CC=C(C=C1)N1CCC(CC1)NN1C([C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C=C)=O | C22H27N5O3S
